US08541457B2
Synthesis of 2-(2,2-Dimethylpropionylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 2,2-dimethylpropionyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 23% yield; 1H NMR (CDCl3, 300 MHz) δ 8.85 (s, br, 1H), 7.36-7.25 (m, 5H), 5.91 (s, br, 1H), 4.56 (d, J=5.8 Hz, 2H), 2.60 (s, 3H), 1.27 (s, 9H); MS (ES+) m/z 332.0 (M+1).

reactant | 2,2-dimethylpropionyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(2,2-Dimethylpropionylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 23% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C(C)(C)C)=O)C | C17H21N3O2S
